US08865698B2
(R)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-phenylurea
To a DCM (0.8 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 25 mg, 0.079 mmol) was added isocyanatobenzene (19 mg, 0.16 mmol) at ambient temperature drop-wise. The reaction was stirred for 5 minutes then concentrated, and the residue was directly purified by reverse-phase column chromatography, eluting with 5 to 60% acetonitrile/water to yield the final product as a pale-yellowish solid (30 mg, 87% yield). MS (apci) m/z=435.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.079 mmol, 25 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | isocyanatobenzene | 0.16 mmol, 19 mg | N(=C=O)C1=CC=CC=C1 | C7H5NO
solvent | DCM | 0.8 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-phenylurea | 30 mg, 87% yield | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)NC2=CC=CC=C2 | C23H20F2N6O
